US08865736B2
[4-(4-Trifluoromethyl-phenyl)-thiazol-2-yl]-methanol
To an ice-cold suspension of LAH (0.056 g, 1.40 mmol) the 8 ml of anhydrous THF was added dropwise a solution of 4-(4-Trifluoromethyl-phenyl)-thiazole-2-carboxylic acid ethyl ester (0.21 g, 0.71 mmol) in the 5 ml of THF. The reaction mixture was stirred at 25° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), cooled the reaction mixture to 0° C. and quenched with 2.5 ml of water followed by the addition of 15% NaOH solution (2 mL) and finally 4 ml of water. The resulting solution was filtered through celite bed and the filtrate was concentrated under reduced pressure. Water (50 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to give the desired product (0.13 g, 70%). The other derivatives were also prepared by the same general method.

reactant | LAH | 1.40 mmol, 0.056 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(4-Trifluoromethyl-phenyl)-thiazole-2-carboxylic acid ethyl ester | 0.71 mmol, 0.21 g | C(C)OC(=O)C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | [4-(4-Trifluoromethyl-phenyl)-thiazol-2-yl]-methanol | 0.13 g, 70% | FC(C1=CC=C(C=C1)C=1N=C(SC1)CO)(F)F | C11H8F3NOS
